US07030200B2
Synthesis of (Dimesitylphosphino)acetaldehyde
KHMDS (35 mL of a 0.5 M solution in toluene, 17.5 mmol, Aldrich) 35 was added to a solution of dimesitylphosphine (4.1 g, 15.8 mmol) in THF (50 mL) at −78° C. After stirring for 20 min at −78° C. bromoacetaldehyde diethylacetal (2.85 mL, 19 mmol, Aldrich) was added dropwise to the solution of potassium phosphide. The solution was stirred for 5 min at −78° C., warmed to RT and stirred for 30 min at RT. Assay by 31P-NMR (crude reaction mixture) showed the formation of product (−29.5 ppm). The solvent was evaporated, the residue was flushed through a 6×3.3 cm plug of silica gel and toluene was removed (aspirator) to afford the product as a yellow oil. The product was dissolved in a mixture of degassed acetone (60 mL) and 5% aq. HCl (30 mL) and refluxed under Ar for 2.5 h. A saturated, degassed solution of NaHCO3 (100 mL) was added to the reaction mixture followed by extraction with degassed CH2Cl2 (3×50 mL). The solution was evaporated under Ar followed by filtration through a plug of silica gel (9×3.6 cm; Ar atmosphere), CH2Cl2 eluent, collecting 250 mL. Evaporation afforded product as a very air-sensitive white solid, 4.1 g (83.1%). 31P{1H} NMR (CD2Cl2): −35.6 ppm (s).

reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | dimesitylphosphine | 15.8 mmol, 4.1 g | C1(=C(C(=CC(=C1)C)C)PC1=C(C=C(C=C1C)C)C)C | C18H23P
reactant | bromoacetaldehyde diethylacetal | 19 mmol, 2.85 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | potassium phosphide | [PH2-].[K+].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (Dimesitylphosphino)acetaldehyde | C1(=C(C(=CC(=C1)C)C)P(C1=C(C=C(C=C1C)C)C)CC=O)C | C20H25OP
